US07176242B2
3-Isopropylbenzylamine hydrochloride
A solution of 3-isopropenylbenzonitrile (6.0 g, 41.9 mmol) and 10% Pd/C (600 mg) in ethanol (65 mL) and acetic acid (2.4 mL) is degassed with nitrogen for 15 min, and shaken under an atmosphere of hydrogen at 50 psi for 12 h. The reaction mixture is filtered through diatomaceous earth and concentrated under reduced pressure to provide an oil. The oil is dissolved in methanol (5 mL) and hydrochloric acid (15 mL of a 1 M solution in diethyl ether) is added. The resulting precipitate is collected by filtration to provide the title compound. APCI MS m/z 149 [M+H]+.

reactant | 3-isopropenylbenzonitrile | 41.9 mmol, 6.0 g | C(=C)(C)C=1C=C(C#N)C=CC1 | C10H9N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 65 mL | C(C)O | C2H6O
solvent | acetic acid | 2.4 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | 3-Isopropylbenzylamine hydrochloride | Cl.C(C)(C)C=1C=C(CN)C=CC1 | InChI=1S/C10H15N.ClH/c1-8(2)10-5-3-4-9(6-10)7-11;/h3-6,8H,7,11H2,1-2H3;1H
